US06432993B1
t-Butyl N-{2-amino-5-[4-(t-butoxycarbonyl-n-hexylamino)phenoxy]phenyl}-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-{5-[4-(t-butoxycarbonyl-n-hexylamino)phenoxy]-2-nitrophenyl}-N-methylcarbamate (13.8 g), palladium on carbon (10%, 1.0 g) and toluene/ethyl acetate=1/1 (140 ml) and the reaction mixture was purified to give the title compound (13.1 g).

reactant | t-butyl N-{5-[4-(t-butoxycarbonyl-n-hexylamino)phenoxy]-2-nitrophenyl}-N-methylcarbamate | 13.8 g | C(C)(C)(C)OC(=O)N(C1=CC=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1)CCCCCC | C29H41N3O7
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | n-hexane ethyl acetate | 140 ml | CCCCCC.C(C)(=O)OCC
product | t-Butyl N-{2-amino-5-[4-(t-butoxycarbonyl-n-hexylamino)phenoxy]phenyl}-N-methylcarbamate | 13.1 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)N(CCCCCC)C(=O)OC(C)(C)C)N(C(OC(C)(C)C)=O)C | C29H43N3O5
